US08080552B2
1-(3-tert-Butyl-phenyl)-3-{4-[2-(3-Hydroxy-propylamino)-pyrimidin-4-yloxy]-phenyl}-urea
172 mg (1.06 mmol) 1,1′-Carbonyl-diimidazol (CDI) were given to a solution of 144 mg (0.964 mmol) 3-t-butylaniline in 4.0 ml dichloromethane and stirred for 12 h. A solution of 263 mg (0.964 mmol) 3-[4-(4-Amino-phenoxy)-pyrimidin-2-ylamino]-propan-1-ol in 6.0 ml dichloromethane was added within 30 min. and the mixture stirred for 12 h at r.t. The reaction mixture was filtered, the filtrate evaporated and the residue purified by chromatography on silica gel (dichloromethane/methanol 95:5). The obtained material was washed with ether and the precipitate was isolated by filtration and dried. Yield: 170 mg (41%) of the title compound.

reactant | 1,1′-Carbonyl-diimidazol | 1.06 mmol, 172 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 3-t-butylaniline | 0.964 mmol, 144 mg | C(C)(C)(C)C=1C=C(N)C=CC1 | C10H15N
reactant | 3-[4-(4-Amino-phenoxy)-pyrimidin-2-ylamino]-propan-1-ol | 0.964 mmol, 263 mg | NC1=CC=C(OC2=NC(=NC=C2)NCCCO)C=C1 | C13H16N4O2
solvent | dichloromethane | 4.0 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 6.0 ml | ClCCl | CH2Cl2
product | 1-(3-tert-Butyl-phenyl)-3-{4-[2-(3-Hydroxy-propylamino)-pyrimidin-4-yloxy]-phenyl}-urea | C(C)(C)(C)C=1C=C(C=CC1)NC(=O)NC1=CC=C(C=C1)OC1=NC(=NC=C1)NCCCO | C24H29N5O3
